US07253286B2
6,7-Dimethoxy-4-hydroxyquinoline (4.0 g, 19.5 mM), N-(3-bromopropyl)phthalimide (5.8 g, 21.5 mM), potassium carbonate (5.4 g, 39 mM) and DMF dimethylformamide (20 ml) were stirred at 60° C. for 1.5 hours. Water, ethyl acetate and tetrahydrofuran were added to the reaction solution for extraction. The solid which precipitated after standing for a period was filtered out to obtain N-(3-(6,7-dimethoxyquinolin-4-yloxy)propyl)phthalimide (1.1 g).

reactant | 6,7-Dimethoxy-4-hydroxyquinoline | 19.5 mM, 4.0 g | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
reactant | N-(3-bromopropyl)phthalimide | 21.5 mM, 5.8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 39 mM, 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF dimethylformamide | 20 ml | CN(C)C=O.CN(C=O)C | 2C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-(3-(6,7-dimethoxyquinolin-4-yloxy)propyl)phthalimide | 1.1 g | COC=1C=C2C(=CC=NC2=CC1OC)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H20N2O5
